US07572815B2
Step 1: 4-(ethyl-3-methylanilino)butyric acid ethyl ester
4-Bromobutyric acid ethyl ester (17.1 ml), potassium carbonate (20.5 g), and DMF (80 ml) were added to N-ethyl-m-toluidine (8 g), and the mixture was stirred at 95° C. for 17 hours. The reaction mixture was diluted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane-ethyl acetate) to give the title compound (14.1 g).

reactant | 4-Bromobutyric acid ethyl ester | 17.1 ml | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | potassium carbonate | 20.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
reactant | N-ethyl-m-toluidine | 8 g | C(C)NC1=CC(=CC=C1)C | C9H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(ethyl-3-methylanilino)butyric acid ethyl ester | 14.1 g | C(C)OC(CCCN(C1=CC(=CC=C1)C)CC)=O | C15H23NO2
